US03966713
At -78°, a mixture of 15 ml. of hydrogen fluoride and 5 ml. of N-methylpyrrolidone is combined successively with 5.1 g of 4,9(11)-androstadiene-3,17-dione and 10 g. of N-chlorosuccinimide. The reaction solution is allowed to stand for 2 days at +3° and then introduced into a mixture of ice/water and a 25% ammonia solution. The thus-precipitated product is worked up as set forth in Example A. After chromatography of the crude product on silica gel with acetone/hexane, 1.6 g. of 9-chloro-11β-fluoro-4-androstene-3,17-dione is isolated as an oil. UV: ε239 = 16,200 (methanol).

reactant | hydrogen fluoride | F | FH
reactant | 4,9(11)-androstadiene-3,17-dione | 5.1 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O)=O | C19H24O2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ammonia | N | H3N
solvent | acetone hexane | CC(=O)C.CCCCCC
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 9-chloro-11β-fluoro-4-androstene-3,17-dione | Cl[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2F)=O)=O)C | C19H24ClFO2
